US04997840
A mixture of formic acid (2.3 ml) and acetic anhydride (3.6 ml) was heated at 50 to 60° for 2 hours, cooled to 0 to 5° and dichloromethane (10 ml) added. A solution of 2-chloro-2'-(methylamino)acetophenone (1.6 g) in dichloromethane (25 ml) was added and the solution then stirred at 10°-20° for 3 hours. The solution was cooled to 0 to 5° and water (50 ml) followed by aqueous sodium bicarbonate (1M, 50 ml) was added. The layers were separated and the aqueous layer was extracted with dichloromethane (50 ml). The combined dichloromethane layer and extract were dried over magnesium sulphate and the solvent was removed by distillation to give the novel compound 2'-(2-chloro-acetyl)-N-methylformanilide in the form of an oil.

reactant | formic acid | 2.3 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 3.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-chloro-2'-(methylamino)acetophenone | 1.6 g | ClCC(=O)C1=C(C=CC=C1)NC | C9H10ClNO
reactant | sodium bicarbonate | 1M, 50 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 2'-(2-chloro-acetyl)-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=CC=C1 | C10H10ClNO2
